US06326359B1
(2R,3R,4S,5R)-2-{2-[(Benzylsulfanyl)methyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol
{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (300 mg, 0.53 mmol) (preparation 25) was dissolved in stirred dichloromethane (4 ml) and phenylmethanethiol (0.13 ml, 1.05 mmol) and triethylamine (0.15 ml, 1.05 mmol) added. The reaction mixture was stirred for 48 hr at room temperature and then the solvent removed under reduced pressure. The residue was partitioned between methanol (100 ml) and hexane (100 ml) and the methanol layer washed with a further amount of hexane (100 ml). The solvent was then removed under reduced pressure from the methanol layer. The residue was purified by column chromatography on silica gel eluting with a solvent system of ethyl acetate:hexane (3:2) increasing in polarity to ethyl acetate:methanol (98:2). This gave title compound (100 mg) as a foam. MS: 599 (MH+).

reactant | {9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.53 mmol, 300 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
reactant | phenylmethanethiol | 1.05 mmol, 0.13 ml | C1(=CC=CC=C1)CS | C7H8S
reactant | triethylamine | 1.05 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (2R,3R,4S,5R)-2-{2-[(Benzylsulfanyl)methyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol | 100 mg | C(C1=CC=CC=C1)SCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C33H35N5O4S
